US08580762B2
3-(3-(cyclobutyl(((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)propanoic acid
Lithium hydroxide monohydrate (0.58 g, 14 mmol) added to a solution of ethyl 3-(3-(cyclobutyl(((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)propanoate (0.91 g, 1.4 mmol) in Tetrahydrofuran (12 ml, 150 mmol) and Methanol (3 ml, 60 mmol). The reaction mixture was stirred overnight at RT, upon which it was acidified with 1 N HCl to pH=6. The volatiles were removed in vacuo and the remaining water removed by azeotropic distillation with ethanol followed by 18 hours on lyophilizer. The resulting off white solid was used without further purification.

reactant | Lithium hydroxide monohydrate | 14 mmol, 0.58 g | O.[OH-].[Li+]
reactant | ethyl 3-(3-(cyclobutyl(((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)propanoate | 1.4 mmol, 0.91 g | C1(CCC1)N(C1CC(C1)CCC(=O)OCC)C[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC | C37H51N5O6
reactant | Tetrahydrofuran | 150 mmol, 12 ml | O1CCCC1 | C4H8O
reactant | Methanol | 60 mmol, 3 ml | CO | CH4O
reactant | HCl | 1 N | Cl | ClH
product | 3-(3-(cyclobutyl(((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)propanoic acid | C1(CCC1)N(C1CC(C1)CCC(=O)O)C[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC | C35H47N5O6
